US07767691B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-[2-(1H-indol-3-yl)ethyl]-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 2, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (29.7 mg, 0.106 mmol) and 3-(2-bromoethyl)-1H-indole (40.5 mg, 0.181 mmol) in 2 CH3CN/3 CHCl3 (2.5 mL) were reacted to give the desired product (37.0 mg, 69%). EI-MS m/z 423 (M+) Rt (1.82 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.106 mmol, 29.7 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | 3-(2-bromoethyl)-1H-indole | 0.181 mmol, 40.5 mg | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-[2-(1H-indol-3-yl)ethyl]-1-azoniabicyclo[2.2.1]heptane bromide | 37.0 mg, 69% | [Br-].OC(C12CC[N+](CC1)(C2)CCC2=CNC1=CC=CC=C21)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C29H31N2O.BrH/c32-29(24-9-3-1-4-10-24,25-11-5-2-6-12-25)28-16-19-31(22-28,20-17-28)18-15-23-21-30-27-14-8-7-13-26(23)27;/h1-14,21,30,32H,15-20,22H2;1H/q+1;/p-1
